US07932064B2
3-hydroxyglutaronitrile (1 g, 9 mmol) was suspended in 37.5 mL of N2 (g) sparged, room temperature, 100 mM sodium phosphate buffer at pH 7. To this 240 mM solution of HGN was added 150 mg of cell lysate normalized for protein content. As assessed by PAGE, the nitrilase content was established to be 20% of the total protein. Therefore effectively, 30 mg of nitrilase is used in this reaction. The reaction was agitated at 100 rpm. Reaction progress was monitored by TLC (1:1 EtOAc:Hexanes, Rf=0.32, nitrile; Rf=0.0, acid) and GC. After 22 h, the reaction was filtered through a 10,000 MW cutoff filter and then concentrated in vacuo. The concentrated hydrolysis solution was acidified with 1M HCl and the product was continuously extracted with MTBE (30 mL). The acid product (R)-3-hydroxy-4-cyanobutyric acid was isolated as a yellow oil (1.15 g, 98% yield). 1H NMR (d6-DMSO, 500 MHz) δ12.32 (s, 1H), 5.52 (s, 1H), 4.10 (m, 1H), 2.70 (dd, 1H, J=16.8, 4.1 Hz), 2.61 (dd, 1H, J=16.9, 6.3 Hz), 2.44 (dd, 1H, J=15.4, 5.3 Hz), 2.37 (dd, 1H, J=15.6, 7.8 Hz). 13C NMR (DMSO, 298K, 125 MHz) δ171.9, 118.7, 63.4, 41.2, 25.2 MS calc'd for [C5H7NO3]: 129.0, found: 130.0 [M+H+], (ESI+). ee=95% [HPLC]. Based on the isolated yield a productivity of 40 g g−1 d−1 is calculated.

reactant | 3-hydroxyglutaronitrile | 9 mmol, 1 g | OC(CC#N)CC#N | C5H6N2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1M | Cl | ClH
solvent | N2 | 37.5 mL | N#N | N2
product | (R)-3-hydroxy-4-cyanobutyric acid | O[C@@H](CC(=O)O)CC#N | C5H7NO3
